US05382379
4-(3',4',5'-Trifluorophenyl)-1-(2'-hydroxyethyl)cyclohexane (10.4 g) was added to an aqueous solution of 47% HBr (15 ml), followed by stirring the mixture under reflux for 2 hours, adding the reaction solution to water (50 ml), extracting with ethyl acetate (100 ml), washing the organic layer with water, drying over anhydrous MgSO4, and concentrating the solvent under reduced pressure, to obtain 4-(3',4',5'-trifluorophenyl)-1 -(2'-bromoethyl)cyclohexane (10.4g).

reactant | 4-(3',4',5'-Trifluorophenyl)-1-(2'-hydroxyethyl)cyclohexane | 10.4 g | FC=1C=C(C=C(C1F)F)C1CCC(CC1)CCO | C14H17F3O
reactant | HBr | 15 ml | Br | BrH
solvent | water | 50 ml | O | H2O
product | 4-(3',4',5'-trifluorophenyl)-1 -(2'-bromoethyl)cyclohexane | 10.4g | FC=1C=C(C=C(C1F)F)C1CCC(CC1)CCBr | C14H16BrF3
